US05556863
Preparation of 3-butyryl-4-(2-methyl,6-chlorophenylamino)-8-(2-methylsulfinylethoxy)quinoline
3-butyryl-4-(2-methyl,6-chlorophenylamino )-8-(2-methylthioethoxy)quinoline (0.35 g, 0.82 mmol) was dissolved in methylene chloride (4 ml). Water (2 ml) and sodium hypochlorite (5% in water) (1.7 ml) were added and the mixture was stirred for 3 h. The organic layer was dried over sodium sulfate and evaporated. The residue crystallized from ethyl acetate and 0.10 g (27%) of the title compound was obtained.

reactant | 3-butyryl-4-(2-methyl,6-chlorophenylamino )-8-(2-methylthioethoxy)quinoline | 0.82 mmol, 0.35 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1Cl)C)OCCSC | C23H25ClN2O2S
reactant | Water | 2 ml | O | H2O
reactant | sodium hypochlorite | 1.7 ml | Cl[O-].[Na+]
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 3-butyryl-4-(2-methyl,6-chlorophenylamino)-8-(2-methylsulfinylethoxy)quinoline | 0.10 g, 27% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1Cl)C)OCCS(=O)C | C23H25ClN2O3S
